US06248766B1
(E)-3-(2-methoxy-3,5-dimethylphenyl)propenoic Acid
A solution of 2-methoxy-3,5-dimethylbenzaldehyde (9.40 g, 57.2 mmol), malonic acid (8.90 g, 85.8 mmol), and pyrrolidine (730 mg, 8.58 mmol) in pyridine (80 mL) was refluxed for 14 hours. This reaction mixture was poured in iced water and extracted with ethyl acetate. The extract was washed with 2N-hydrochloric acid, dried over MgSO4, and filtered. The filtrate was concentrated under reduced pressure to provide 9.60 g of the title compound. Yield 81%.

reactant | 2-methoxy-3,5-dimethylbenzaldehyde | 57.2 mmol, 9.40 g | COC1=C(C=O)C=C(C=C1C)C | C10H12O2
reactant | malonic acid | 85.8 mmol, 8.90 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | pyrrolidine | 8.58 mmol, 730 mg | N1CCCC1 | C4H9N
solvent | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | (E)-3-(2-methoxy-3,5-dimethylphenyl)propenoic Acid | 9.60 g, Yield 81% | COC1=C(C=C(C=C1C)C)/C=C/C(=O)O | C12H14O3
